US07214824B2
4(a): 4-tert-Butyl-3-fluorophenol
To a suspension of zirconium tetrachloride (1.2 g, 5 mmol) in methylene dichloride (15 ml), methyl tert-butyl ether (0.44 g, 5 mmol), 3-fluorophenol (0.56 g, 5 mmol) were treated in the same procedure described in Example 3(a) to furnish 458 mg (55% yield) of the title compound as a white solid.

reactant | methyl tert-butyl ether | 5 mmol, 0.44 g | C(C)(C)(C)OC | C5H12O
reactant | 3-fluorophenol | 5 mmol, 0.56 g | FC=1C=C(C=CC1)O | C6H5FO
solvent | methylene dichloride | 15 ml | C(Cl)Cl | CH2Cl2
catalyst | zirconium tetrachloride | 5 mmol, 1.2 g | [Cl-].[Cl-].[Cl-].[Cl-].[Zr+4]
product | 4-tert-Butyl-3-fluorophenol | 458 mg, 55% yield | C(C)(C)(C)C1=C(C=C(C=C1)O)F | C10H13FO
